US05171860
3-[2-[(5-Dimethylaminomethyl-2-furanyl)methylthio]ethyl]amino-4-amino-5-methylsulfonylisothiazole-1,1-dioxide
To a solution of 2-[(5-dimethylaminomethyl-2furanyl)methylthio]ethylamine (0.66 g, 3.08 mmol) in acetonitrile (5 ml) under a nitrogen atmosphere there was added solid 3-ethoxy-4-amino-5-methylsulfonylisothiazole-1,1-dioxide (0.77 g, 3.01 mmol) to give an immediate solution and exothermic reaction. After 1/4 hour, the product began to crystallize and after stirring for 15 hours, was collected by filtration (1.2 g). The title compound was recrystallized by dissolving in hot methanol and diluting with several volumes of ether (1.0 g), mp 187°-189°.

reactant | 2-[(5-dimethylaminomethyl-2furanyl)methylthio]ethylamine | 3.08 mmol, 0.66 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 3-ethoxy-4-amino-5-methylsulfonylisothiazole-1,1-dioxide | 3.01 mmol, 0.77 g | C(C)OC1=NS(C(=C1N)S(=O)(=O)C)(=O)=O | C6H10N2O5S2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-[2-[(5-Dimethylaminomethyl-2-furanyl)methylthio]ethyl]amino-4-amino-5-methylsulfonylisothiazole-1,1-dioxide | CN(C)CC1=CC=C(O1)CSCCNC1=NS(C(=C1N)S(=O)(=O)C)(=O)=O | C14H22N4O5S3
